US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid (3-cyclohexyl-propyl)-amide
4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-(3-cyclohexylpropyl)-1-piperidinecarboxamide (0.23 g, 0.291 mmol) was reacted according to Procedure H (eluant: 10:1 going to 5:1 chloroform-methanol containing 2% triethylamine) to give the title compound (0.11 g, 0.199 mmol).

reactant | 4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-(3-cyclohexylpropyl)-1-piperidinecarboxamide | 0.291 mmol, 0.23 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)NCCCC3CCCCC3)C=C2)O)C=C1 | C48H66N4O4Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid (3-cyclohexyl-propyl)-amide | 0.199 mmol, 0.11 g | C1(CCCCC1)CCCNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C32H48N4O4
